US07906645B2
1-{[(3R)-1-Benzylpiperidin-3-yl]methyl}-N-(3,4-dichlorophenyl)piperazine-4-carboxamide
To a mixture of N-(3,4-dichlorophenyl)-1-[(3R)-piperidin-3-ylmethyl]piperazine-4-carboxamide dihydrochloride (800 mg) in dichloromethane (25 mL) was added N,N-di-iso-propylethylamine (0.94 mL) under argon. The mixture was stirred at room temperature for 5 minutes before benzaldehyde (0.22 mL) and sodium triacetoxyborohydride (573 mg) were added. The reaction mixture was stirred at room temperature under argon for 4 hours. The reaction was quenched with water and then partitioned between dichloromethane and water. The organic extract was washed with brine, dried over magnesium sulfate and evaporated. The residue was purified by silica column chromatography, eluting with a gradient of 0 to 10% MeOH in dichloromethane to give the title compound as a white solid (550 mg, 66%).

reactant | N-(3,4-dichlorophenyl)-1-[(3R)-piperidin-3-ylmethyl]piperazine-4-carboxamide dihydrochloride | 800 mg | Cl.Cl.ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)C[C@H]1CNCCC1
reactant | N,N-di-iso-propylethylamine | 0.94 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzaldehyde | 0.22 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium triacetoxyborohydride | 573 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 1-{[(3R)-1-Benzylpiperidin-3-yl]methyl}-N-(3,4-dichlorophenyl)piperazine-4-carboxamide | 550 mg, 66% | C(C1=CC=CC=C1)N1C[C@@H](CCC1)CN1CCN(CC1)C(=O)NC1=CC(=C(C=C1)Cl)Cl | C24H30Cl2N4O
